US06372759B1
D) N4-Acetyl-N2-(4-t-butylbenzoyl)-N1-(6-indolylcarbonyl)-1,2,4-benzenetriamine
To a stirring solution of 2-(4-t-butylbenzoyl)amino-4-(acetylamino)aniline (40 mg, 0.12 mmol), 6-indolecarboxylic acid (40 mg, 0.24 mmol) and bromotris(pyrrolidino)phosphonium hexafluorophosphate (112 mg, 0.12 mmol) in dichloromethane (10 mL) and DMF (1 mL) was added N,N-diisopropylethylamine (42 mg, 0.36 mmol). After 3 days, the solvent was removed in vacuo and the residue was dissolved in ethyl acetate and washed once with 1 N HCl, once with satd aq sodium bicarbonate, dried with MgSO4, filtered and concentrated in vacuo. The residue was then chromatographed over silica gel, eluting with 10% methanol/dichloromethane and the product containing fractions were combined and concentrated to give 40 mg (71%) of the title compound.

reactant | 2-(4-t-butylbenzoyl)amino-4-(acetylamino)aniline | 0.12 mmol, 40 mg | C(C)(C)(C)C1=CC=C(C(=O)NC2=C(N)C=CC(=C2)NC(C)=O)C=C1 | C19H23N3O2
reactant | 6-indolecarboxylic acid | 0.24 mmol, 40 mg | N1C=CC2=CC=C(C=C12)C(=O)O | C9H7NO2
reactant | bromotris(pyrrolidino)phosphonium hexafluorophosphate | 0.12 mmol, 112 mg | F[P-](F)(F)(F)(F)F.Br[P+](N1CCCC1)(N1CCCC1)N1CCCC1
reactant | N,N-diisopropylethylamine | 0.36 mmol, 42 mg | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | N4-Acetyl-N2-(4-t-butylbenzoyl)-N1-(6-indolylcarbonyl)-1,2,4-benzenetriamine | 40 mg, 71% | C(C)(=O)NC=1C=C(C(=CC1)NC(=O)C1=CC=C2C=CNC2=C1)NC(C1=CC=C(C=C1)C(C)(C)C)=O | C28H28N4O3
